US07498440B2
Preparation of 1-(5-hexen-1-yl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0637 g, 0.217 mmol) and 6-bromo-1-hexene (0.050 mL, 0.373 mmol) in 2 CH3CN/3 CHCl3 (5.0 mL) were reacted to give the desired product (0.0664 g, 67.1%). EI-MS m/z 376(M+) Rt (1.90 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.217 mmol, 0.0637 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 6-bromo-1-hexene | 0.373 mmol, 0.050 mL | BrCCCCC=C | C6H11Br
solvent | CH3CN | 5.0 mL | CC#N | C2H3N
product | 1-(5-hexen-1-yl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0664 g, 67.1% | [Br-].C(CCCC=C)[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C26H34NO.BrH/c1-2-3-4-11-19-27-20-16-25(17-21-27,18-22-27)26(28,23-12-7-5-8-13-23)24-14-9-6-10-15-24;/h2,5-10,12-15,28H,1,3-4,11,16-22H2;1H/q+1;/p-1
